US08685969B2
10. 7-(3-(tert-Butyldimethylsilyloxy)pyrrolidin-1-yl)-4-(3-(6-chloro-1-oxoisoindolin-2-yl)-2-methylphenyl)-9H-pyrido[3,4-b]indole-1-carboxamide
A solution of 2-((3-(7-(3-(tert-butyldimethylsilyloxy)pyrrolidin-1-yl)-1-carbamoyl-9H-pyrido[3,4-b]indol-4-yl)-2-methylphenylamino)methyl)-5-chlorobenzoic acid (0.104 g, 0.152 mmol), DIPEA (0.080 mL, 0.456 mmol), N-methylmorpholine (0.134 mL, 1.216 mmol) and BOP (0.175 g, 0.395 mmol) in DMF (1.520 mL) under nitrogen was heated at 45° C. for 1 h. The reaction was cooled to room temperature, dissolved in EtOAc (100 mL) and washed with water (3×25 mL) and brine (25 mL), dried over MgSO4, filtered and concentrated in vacuo to give a residue which was purified by flash chromatography using an ISCO 12 g column eluting with 0-20 EtOAc/hexanes. Appropriate fractions were collected and concentrated in vacuo to give the desired product (0.0456 g, 0.068 mmol, 45.0% yield) as a light orange solid.

reactant | 2-((3-(7-(3-(tert-butyldimethylsilyloxy)pyrrolidin-1-yl)-1-carbamoyl-9H-pyrido[3,4-b]indol-4-yl)-2-methylphenylamino)methyl)-5-chlorobenzoic acid | 0.152 mmol, 0.104 g | [Si](C)(C)(C(C)(C)C)OC1CN(CC1)C1=CC=C2C3=C(NC2=C1)C(=NC=C3C=3C(=C(C=CC3)NCC3=C(C(=O)O)C=C(C=C3)Cl)C)C(N)=O | C37H42ClN5O4Si
reactant | DIPEA | 0.456 mmol, 0.080 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | N-methylmorpholine | 1.216 mmol, 0.134 mL | CN1CCOCC1 | C5H11NO
reactant | BOP | 0.395 mmol, 0.175 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | DMF | 1.520 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 7-(3-(tert-Butyldimethylsilyloxy)pyrrolidin-1-yl)-4-(3-(6-chloro-1-oxoisoindolin-2-yl)-2-methylphenyl)-9H-pyrido[3,4-b]indole-1-carboxamide | 0.068 mmol, 0.0456 g, 45.0% yield | [Si](C)(C)(C(C)(C)C)OC1CN(CC1)C1=CC=C2C3=C(NC2=C1)C(=NC=C3C3=C(C(=CC=C3)N3C(C1=CC(=CC=C1C3)Cl)=O)C)C(=O)N | C37H40ClN5O3Si
